US05026848
7-(3-methylisoxazol-5-yl)heptyl bromide (38)
To a solution of diisopropylamine (8.4 ml, 0.06 mol) in THF, was added, at -5° C., and under nitrogen, n-butyllithium (1.6M in Hexane, 37.5 ml, 0.06 mole). After the addition was complete, the solution was cooled to -70° C. and 3,5-dimethylisoxazole (5.82 g, 0.06 mol) in THF (20 ml) was added dropwise. The mixture was stirred for an additional hour at -70° C., then added, via nitrogen purge, to a solution of 1,6-dibromohexane (58.56 g, 0.24 mol) in THF (40 ml), and chilled to -70° C. with stirring. The mixture was allowed to gradually warm to room temperature and then stirred overnight. After quenching with saturated solution of ammonium chloride (30 ml), the mixture was extracted with isopropylacetate (250 ml) and the extract was washed with distilled water and dried. Removal of the solvent and excess 1,6-dibromohexane gave an oil which was purified by c.c. (EtAcO/Hexane; 1:4).

reactant | diisopropylamine | 0.06 mol, 8.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.06 mole, 1.6M, 37.5 ml | C(CCC)[Li]
reactant | 3,5-dimethylisoxazole | 0.06 mol, 5.82 g | CC1=NOC(=C1)C | C5H7NO
reactant | 1,6-dibromohexane | 0.24 mol, 58.56 g | BrCCCCCCBr | C6H12Br2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 7-(3-methylisoxazol-5-yl)heptyl bromide | CC1=NOC(=C1)CCCCCCCBr | C11H18BrNO
